US05259915
2.4 g (7.3 mmol) of 2,6-bis(diethylaminomethylene)phenyl bromide in 40 ml of hexane, 4.6 ml of butyllithium (7.3 mmol; 1.6 mol/l in hexane) and 1.5 g (7.3 mmol) of diethylindium chloride in 20 ml hexane are reacted analogously to Example 1 to give [2,6-bis(diethylaminomethylene)phenyl]diethylindium, which is obtained as a colorless liquid, b.p. 115° C./0.04 mbar, by vacuum distillation.

reactant | 2,6-bis(diethylaminomethylene)phenyl bromide | 7.3 mmol, 2.4 g | C(C)N(CC)C=C1C(C(C=CC1)=CN(CC)CC)Br | C16H27BrN2
reactant | butyllithium | 7.3 mmol, 1.6 mol/l, 4.6 ml | C(CCC)[Li]
reactant | diethylindium chloride | 7.3 mmol, 1.5 g | [Cl-].C(C)[In+]CC
solvent | hexane | 40 ml | CCCCCC | C6H14
solvent | hexane | 20 ml | CCCCCC | C6H14
product | [2,6-bis(diethylaminomethylene)phenyl]diethylindium | C(C)N(CC)C=C1C(C(C=CC1)=CN(CC)CC)[In](CC)CC | InChI=1S/C16H27N2.2C2H5.In/c1-5-17(6-2)13-15-10-9-11-16(12-15)14-18(7-3)8-4;2*1-2;/h9-10,12-14H,5-8,11H2,1-4H3;2*1H2,2H3;
